US07053060B2
To a solution of 2-(4-methoxybenzyl)-3,5-dimethylphenol (4.0 g) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (8.9 g) in dichloromethane (100 mL) was added boron trifluoride diethyl-ether complex (2.5 mL) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: dichloromethane). The solvent was removed under reduced pressure, ethanol was added to the residue, and the resulting crystals were collected by filtration. The obtained crystals were dried under reduced pressure to give 2-(4-methoxybenzyl)-3,5-dimethylphenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (7.8 g).

reactant | 2-(4-methoxybenzyl)-3,5-dimethylphenol | 4.0 g | COC1=CC=C(CC2=C(C=C(C=C2C)C)O)C=C1 | C16H18O2
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 8.9 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(4-methoxybenzyl)-3,5-dimethylphenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 7.8 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C(=CC(=C2)C)C)CC2=CC=C(C=C2)OC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C30H36O11
